US04072696
1-Amino-4-methylthiomethoxy-2-nitrobenzene, prepared according to Example XV, is treated with 3.0 g. methoxy carbonyl isothiocyanate at room temperature for nine days. The solution is concentrated and the residue triturated with ether and recrystallized to afford 1-(3-methoxycarbonyl-2-thioureido)-4-methylthiomethoxy-2-nitrobenzene. This latter compound is treated in accordance with the iron reduction technique set forth in the third paragraph of Example XIX to afford 2-amino-1-(3-methoxycarbonyl-2-thioureido)-4-methylthiomethoxybenzene. This latter compound is treated in accordance with the first paragraph of Example XVI to afford 2-acetamido-1-(3-methoxycarbonyl-2-thioureido)-4-methylthiomethoxybenzene.

reactant | 1-Amino-4-methylthiomethoxy-2-nitrobenzene | NC1=C(C=C(C=C1)OCSC)[N+](=O)[O-] | C8H10N2O3S
reactant | methoxy carbonyl isothiocyanate | COC(=O)N=C=S | C3H3NO2S
product | 1-(3-methoxycarbonyl-2-thioureido)-4-methylthiomethoxy-2-nitrobenzene | COC(=O)NC(NC1=C(C=C(C=C1)OCSC)[N+](=O)[O-])=S | C11H13N3O5S2
